US08377923B2
A 1.4M methylmagnesium bromide/toluene solution (0.5 ml) was added to a solution of 3-fluoro-4-{4-methyl-5-[1-methyl-1-(2,4,6-trifluorophenoxy)ethyl]-4H-1,2,4-triazol-3-yl}benzaldehyde (90 mg) in THF (1 ml) under ice cooling, followed by stirring for one hour under ice cooling. A saturated aqueous ammonium chloride solution was added to the reaction solution, followed by extraction with ethyl acetate, the organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was then evaporated. The residue was purified by silica gel column chromatography (chloroform:methanol=100:0 to 90:10) to obtain 87 mg of a light yellow amorphous. The resulting amorphous was dissolved in ethyl acetate, a 4M hydrogen chloride/1,4-dioxane solution (0.2 ml) was added thereto so as to be hydrochloride. Ethyl acetate was added to the solid obtained by concentration and drying, followed by collecting by filtration, washing with ethyl acetate and drying under reduced pressure to obtain 1-(3-fluoro-4-{4-methyl-5-[1-methyl-1-(2,4,6-trifluorophenoxy)ethyl]-4H-1,2,4-triazol-3-yl}phenyl)ethanol monohydrochloride (83 mg) as a beige solid.

reactant | methylmagnesium bromide toluene | 1.4M, 0.5 ml | C[Mg]Br.C1(=CC=CC=C1)C
reactant | 3-fluoro-4-{4-methyl-5-[1-methyl-1-(2,4,6-trifluorophenoxy)ethyl]-4H-1,2,4-triazol-3-yl}benzaldehyde | 90 mg | FC=1C=C(C=O)C=CC1C1=NN=C(N1C)C(C)(OC1=C(C=C(C=C1F)F)F)C | C19H15F4N3O2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrogen chloride 1,4-dioxane | 4M, 0.2 ml | Cl.O1CCOCC1
reactant | hydrochloride | Cl | ClH
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3-fluoro-4-{4-methyl-5-[1-methyl-1-(2,4,6-trifluorophenoxy)ethyl]-4H-1,2,4-triazol-3-yl}phenyl)ethanol monohydrochloride | 83 mg | Cl.FC=1C=C(C=CC1C1=NN=C(N1C)C(C)(OC1=C(C=C(C=C1F)F)F)C)C(C)O | InChI=1S/C20H19F4N3O2.ClH/c1-10(28)11-5-6-13(14(22)7-11)18-25-26-19(27(18)4)20(2,3)29-17-15(23)8-12(21)9-16(17)24;/h5-10,28H,1-4H3;1H
